US09238639B2
Methyl 6-((2,4-dichlorobenzyl)oxy)-3-methyl-2,3-dihydro-1-benzofuran-3-carboxylate
To a mixture of methyl 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-carboxylate (150 mg) in DMF (dry) (3.0 mL) was added sodium hydride (18.7 mg) at 0° C. After 30 min, to the mixture was added iodomethane (0.034 mL) at 0° C. The mixture was allowed to room temperature and stirred at room temperature overnight. The mixture was quenched with water at 0° C. and extracted with EtOAc. The combined organic layer was washed successively with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (103.8 mg).

reactant | methyl 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-carboxylate | 150 mg | ClC1=C(COC2=CC3=C(C(CO3)C(=O)OC)C=C2)C=CC(=C1)Cl | C17H14Cl2O4
reactant | sodium hydride | 18.7 mg | [H-].[Na+]
reactant | iodomethane | 0.034 mL | IC | CH3I
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | Methyl 6-((2,4-dichlorobenzyl)oxy)-3-methyl-2,3-dihydro-1-benzofuran-3-carboxylate | 103.8 mg | ClC1=C(COC2=CC3=C(C(CO3)(C(=O)OC)C)C=C2)C=CC(=C1)Cl | C18H16Cl2O4
